US07253286B2
Synthesis of 4-(4-Aminophenoxy)furo[2.3-b]pyridine-2-carboxylic acid methyl ester
4-(4-Nitrophenoxy)-furo[2.3-b]pyridine-2-carboxylic acid methyl ester (70 mg) was subjected to iron reduction by the same method as in Production Example 10 to obtain the title compound (55 mg).

reactant | 4-(4-Nitrophenoxy)-furo[2.3-b]pyridine-2-carboxylic acid methyl ester | 70 mg | COC(=O)C1=CC=2C(=NC=CC2OC2=CC=C(C=C2)[N+](=O)[O-])O1 | C15H10N2O6
catalyst | iron | [Fe] | Fe
product | 4-(4-Aminophenoxy)furo[2.3-b]pyridine-2-carboxylic acid methyl ester | 55 mg | COC(=O)C1=CC=2C(=NC=CC2OC2=CC=C(C=C2)N)O1 | C15H12N2O4
